US07723329B2
Step 2) [1-(3-Chlorobenzyl)-3-(1-naphthylsulfonyl)-1H-indazol-5-yl]-methanol
1-(3-Chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde (0.18 g, 0.4 mmol) was dissolved in THF and treated under nitrogen with the excess of sodium borohydride (0.2 mmol). After 1 hr the reaction mixture was diluted with water and the product extracted with methylene chloride to afford after evaporation of the solvent the title compound as a colorless solid (0.18 g, 0.4 mmoles).

reactant | 1-(3-Chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde | 0.4 mmol, 0.18 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)C=O)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C25H17ClN2O3S
reactant | sodium borohydride | 0.2 mmol | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [1-(3-Chlorobenzyl)-3-(1-naphthylsulfonyl)-1H-indazol-5-yl]-methanol | 0.4 mmoles, 0.18 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)CO)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C25H19ClN2O3S
